US08202858B2
1-(3,3-Dimethyl-butyl)-piperidine-4-carboxylic Acid 2-methyl-4-(2-methyl-4,5-dihydro-1H-1,3,6-triaza-benzo[e]azulene-6-carbonyl)-benzylamide
1-(3,3-Dimethyl-butyl)-piperidine-4-carboxylic acid 4-(1-benzyl-2-methyl-4,5-dihydro-1H-1,3,6-triaza-benzo[e]azulene-6-carbonyl)-2-methyl-benzylamide from Example E121 (110 mg, 0.17 mmol) was dissolved in absolute ethanol (5 ml) and placed under an inert atmosphere. 10% Palladium on carbon (110 mg) and cyclo-hexene (0.176 ml, 1.7 mmol) were added and the mixture was heated at 60° C. for 3 h. The catalyst was filtered off through Celite® filter agent and the filtrate was concentrated in vacuo. The residue was purified by preparative HPLC (eluant; 0.5% 35% ammonia:9.5% methanol:90% dichloromethane) to give a white powder identified as the title compound (45 mg, 48%).

reactant | 1-(3,3-Dimethyl-butyl)-piperidine-4-carboxylic acid 4-(1-benzyl-2-methyl-4,5-dihydro-1H-1,3,6-triaza-benzo[e]azulene-6-carbonyl)-2-methyl-benzylamide | C(C1=CC=CC=C1)N1C(=NC=2CCN(C3=C(C12)C=CC=C3)C(=O)C3=CC(=C(CNC(=O)C1CCN(CC1)CCC(C)(C)C)C=C3)C)C | C40H49N5O2
reactant | cyclo-hexene | 1.7 mmol, 0.176 ml | C1=CCCCC1 | C6H10
solvent | ethanol | 5 ml | C(C)O | C2H6O
catalyst | Palladium on carbon | 110 mg | [Pd] | Pd
product | 1-(3,3-Dimethyl-butyl)-piperidine-4-carboxylic Acid 2-methyl-4-(2-methyl-4,5-dihydro-1H-1,3,6-triaza-benzo[e]azulene-6-carbonyl)-benzylamide | 45 mg, 48% | CC1=C(CNC(=O)C2CCN(CC2)CCC(C)(C)C)C=CC(=C1)C(=O)N1C2=C(C=3NC(=NC3CC1)C)C=CC=C2 | C33H43N5O2
